US07960409B2
Step 1: 3-(trifluoromethyl)-1-(trimethylsilyl)pent-1-yn-3-ol
To a solution of trimethylsilylacetylene (6.0 g, 61.1 mmol) in THF (80 mL) cooled at −78° C., a 1.6M n-butyllithium in hexanes (38 mL, 61.1 mmol) was added dropwise. The solution was then stirred 1 hour, before a solution trifluoromethylethylketone (10 g, 79.4 mmol) in 25 mL of THF was added slowly. The reaction was stirred at −78° C. for 4 hours. The reaction was then poured into a saturated ammonium chloride solution and the aqueous layer was extracted (4×) with diethyl ether. The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude residue obtained was used as such for the next step. 1H NMR (400 MHz, acetone-d6): 5.83 (s, 1H), 1.80 (q, 2H), 1.14 (t, 3H), 0.18 (s, 9H).

reactant | trimethylsilylacetylene | 61.1 mmol, 6.0 g | C[Si](C)(C)C#C | C5H10Si
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | trifluoromethylethylketone | 79.4 mmol, 10 g | FC(F)(F)C(=O)CC | C4H5F3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-(trifluoromethyl)-1-(trimethylsilyl)pent-1-yn-3-ol | FC(C(C#C[Si](C)(C)C)(CC)O)(F)F | C9H15F3OSi
